US05250688
To a solution of 9-(3-hydroxymethyl-4-monomethoxytrityloxybut-1-yl)-2-monomethoxytritylaminopurine (0.70 g, 0.9 mmol) and 4-dimethylaminopyridine (10 mg) in N,N-dimethylformamide (5ml) was added butyric anhydride (0.29 nd, 1.8 mmol) and the solution was stirred for 15 minutes. Methanol (1 ml) was added and the solvent was removed. The residue was taken up in 80% acetic acid (9ml) and the solution was stirred at 70° for 30 minutes. Water (2 ml) was added and the solution was extracted with hexane (2×10 ml) . The aqueous layer was retained and the solvent was removed. The residue was partitioned between saturated aqueous sodium bicarbonate and chloroform and the organic layer was dried (magnesium sulphate) and the solvent removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (16:1 to afford 2-amino-9-(4-butyryloxy-3-hydroxymethylbut-1-yl)purine which was obtained as a white crystalline solid after trituration with -methanol (188 mg, 68 %), m.p. 125°-127°; λmax (MeOH) 222 (27,600) , 243 (4,830), and 308 (6,950)nm; νmax (KBr) 3190, 1730, 1640, 1620, and 1580cm-1 ; &H [(CD3)2SO] 0.85 (3H, t, J 7.4Hz, CH3), 1.50 (2H, sextet, J 7.3Hz, CH2CH2CH3), 1.68 (1H, m, 3'-H), 1.82 (2H, m, 2'-H), 2.23 (2H, t, J 7.4Hz, CH2CH2CH3), 3.42 (2H, t, J 5.2Hz, D2O exchange gives d, CH2OH), 3.95-4.1 (2H, JAB, 11.0Hz, JAX =JBX 5.8Hz, CH2OOC), 4.12 (2H, t, J 7.3Hz, 1'-H), 4.62 (1 H, t, J 4.9Hz, D2O exchangeable, OH), 6.44 (2H, s, D2O exchangeable, 2-NH2), 8.06 (1H, s, 8-H), and 8.56 (1H, s, 6-H); (Found: C, 54.41; H, 6.91; N, 22.70%. C14H21N5O3 requires C, 54.71; H, 6.89; N, 22.79%).

reactant | 9-(3-hydroxymethyl-4-monomethoxytrityloxybut-1-yl)-2-monomethoxytritylaminopurine | 0.9 mmol, 0.70 g | OCC(CCN1C2=NC(=NC=C2N=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC)C(OC)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H47N5O4
reactant | butyric anhydride | 1.8 mmol | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | Methanol | 1 ml | CO | CH4O
reactant | N,N-dimethylformamide | 5ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-amino-9-(4-butyryloxy-3-hydroxymethylbut-1-yl)purine | NC1=NC=C2N=CN(C2=N1)CCC(COC(CCC)=O)CO | C14H21N5O3
